US04092416
Analogously to Example 1a, 30 g (0.3 mol) ethyl acrylate and 63.2 g 1-(4-chlorobenzyl)-piperazine are reacted in 200 ml ethanol to give 86.5 g (92.8% of theory) ethyl 3-[4-(4-chlorobenzyl)-piperazin-1-yl]-propionate; b.p. 150° - 160° C./0.1 mm Hg.

reactant | ethyl acrylate | 0.3 mol, 30 g | C(C=C)(=O)OCC | C5H8O2
reactant | 1-(4-chlorobenzyl)-piperazine | 63.2 g | ClC1=CC=C(CN2CCNCC2)C=C1 | C11H15ClN2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 3-[4-(4-chlorobenzyl)-piperazin-1-yl]-propionate | 86.5 g, 92.8% | ClC1=CC=C(CN2CCN(CC2)CCC(=O)OCC)C=C1 | C16H23ClN2O2
